US05106849
N-(1-Methylethyl)-N-(2-[4-(2-pyrimidinyl)-1-piperazinyl]ethyl)-tricyclo[3.3.1.13,7 ]decane-1-carboxamide Dihydrochloride Sesquihydrate
To a solution of adamantane-1-carboxylic acid chloride (1.09 g, 0.005 mol) in dichloromethane (25 mL) was added N-(1-methylethyl)-2-[4-(2-pyrimidinyl)-1-piperazinyl]ethylamine (1.27 g, 0.005 mol) in dichloromethane (15 mL) and triethylamine (2.0 mL, 0.014 mol) at room temperature. The resulting solution was stirred at room temperature for 2 days. The reaction mixture was then washed with water (50 mL), dried over anhydrous magnesium sulfate, and concentrated on a rotary evaporator. The desired product (TLC on silica gel using 30% methanol/ethyl acetate as eluant, Rf=0.51) was isolated by chromatography on 200 g of silica gel using 30% methanol/ethyl acetate and converted to the dihydrochloride salt with isopropanolic HCl (1.87 g, 76%); mp=194°-196° C.

reactant | adamantane-1-carboxylic acid chloride | 0.005 mol, 1.09 g | C12(CC3CC(CC(C1)C3)C2)C(=O)Cl | C11H15ClO
reactant | N-(1-methylethyl)-2-[4-(2-pyrimidinyl)-1-piperazinyl]ethylamine | 0.005 mol, 1.27 g | CC(C)NCCN1CCN(CC1)C1=NC=CC=N1 | C13H23N5
reactant | triethylamine | 0.014 mol, 2.0 mL | C(C)N(CC)CC | C6H15N
solvent | dichloromethane | 25 mL | ClCCl | CH2Cl2
solvent | dichloromethane | 15 mL | ClCCl | CH2Cl2
product | N-(1-Methylethyl)-N-(2-[4-(2-pyrimidinyl)-1-piperazinyl]ethyl)-tricyclo[3.3.1.13,7 ]decane-1-carboxamide Dihydrochloride Sesquihydrate | 30% | O.Cl.Cl.CC(C)N(C(=O)C12CC3CC(CC(C1)C3)C2)CCN2CCN(CC2)C2=NC=CC=N2.O.O.CC(C)N(C(=O)C23CC1CC(CC(C2)C1)C3)CCN3CCN(CC3)C3=NC=CC=N3.Cl.Cl | InChI=1S/2C24H37N5O.4ClH.3H2O/c2*1-18(2)29(22(30)24-15-19-12-20(16-24)14-21(13-19)17-24)11-8-27-6-9-28(10-7-27)23-25-4-3-5-26-23;;;;;;;/h2*3-5,18-21H,6-17H2,1-2H3;4*1H;3*1H2
